US05747621
A suspension of anhydrous cerium chloride (40.60 g, 164.7 mmol) in THF(250 mL) was stirred at room temperature for 2 hours under nitrogen. 4-t-Butylphenylmagnesium bromide (70.0 mL of 2.0M solution in diethyl ether, 140.0 mmol) was added at 0 ° C. and stirred for 3.5 h. A solution of 2-indanone (14.21 g, 107.7 mmol) in THF (20 mL) was added at the same temperature. After stirring at 0° C. for 3 h, the mixture was allowed to warm to room temperature and kept at ambient temperature overnight (12 h). It was then treated with 5% aqueous hydrochloric solution. The solution was extracted with diethyl ether (4*200 mL). All etheral layers were combined, washed with water (100 mL), dried over anhydrous magnesium sulphate and concentrated to give the crude product. 2-Indanone (1.34 g) was distilled off at 80° C/0.3 mm Hg. The residue was washed with pentane (50 mL) and subject to Kugelrohr distillation (185° C./0.3 mm Hg). 2-(4-t-Butyl-phenyl)-2-indanol (23.43 g) was obtained in pure form. 1H-N.M.R. (CDCl3) d 1.32 ( s, 9H), d 1.36 (s, 1H), d 3.25 (d, J=16.2 Hz, 2H), d 3.50 (d, J=16.2 Hz, 2H), d 7.15-7.45 (m, 8H)

reactant | cerium chloride | 164.7 mmol, 40.60 g | [Cl-].[Ce+3].[Cl-].[Cl-]
reactant | 4-t-Butylphenylmagnesium bromide | 140.0 mmol, 2.0M, 70.0 mL | C(C)(C)(C)C1=CC=C(C=C1)[Mg]Br
reactant | 2-indanone | 107.7 mmol, 14.21 g | C1C(CC2=CC=CC=C12)=O | C9H8O
solvent | THF | 250 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-(4-t-Butyl-phenyl)-2-indanol | 23.43 g | C(C)(C)(C)C1=CC=C(C=C1)C1(CC2=CC=CC=C2C1)O | C19H22O
